US07345068B2
A mixture of methyl ester of 2-hydroxy-3-isonicotinoylamino-benzoic acid (500 mg, 1.84 mmol), p-toluenesulfonic acid mono-hydrate (349 mg, 1.84 mmol) and xylene (20 ml) was heated under reflux for 14 hrs. and then p-toluenesulfonic acid mono-hydrate (349 mg, 1.84 mmol) was further added and refluxed under heating for 2 hrs. The reaction mixture was cooled with ice, and ethyl acetate and 10% aqueous potassium carbonate solution were added thereto. The organic phase was separated, washed with water and brine in turn and then dried. The solvent was distilled off under reduced pressure, and the residue was triturated with a mixture of n-hexane/diisopropyl ether (4/1), filtered and dried to give methyl ester of [2-(4-pyridyl)-benzoxazol-7-yl]carboxylic acid (382 mg, 82%) as pale yellow crystals.

reactant | 2-hydroxy-3-isonicotinoylamino-benzoic acid | 1.84 mmol, 500 mg | OC1=C(C(=O)O)C=CC=C1NC(C1=CC=NC=C1)=O | C13H10N2O4
reactant | p-toluenesulfonic acid mono-hydrate | 1.84 mmol, 349 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | p-toluenesulfonic acid mono-hydrate | 1.84 mmol, 349 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(4-pyridyl)-benzoxazol-7-yl]carboxylic acid | 382 mg, 82% | N1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C13H8N2O3
